US08404679B2
N-{(3RS,4SR)-4-(3,4-Dichloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-2-(4-fluoro-phenyl)-N-methyl-acetamide
In analogy to the procedure described for the synthesis of example 97, the title compound N-{(3RS,4SR)-4-(3,4-dichloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-2-(4-fluoro-phenyl)-N-methyl-acetamide was prepared from {4-[(3SR,4RS)-3-(3,4-dichloro-phenyl)-4-methylamino-pyrrolidine-1-carbonyl]-piperidin-1-yl}-(1-methyl-cyclopropyl)-methanone using 4-fluorophenylacetic acid instead of 4-chloro-3-(trifluoromethyl)benzoic acid and was obtained as a light brown foam. MS m/e: 574.2 [M]+.

reactant | {4-[(3SR,4RS)-3-(3,4-dichloro-phenyl)-4-methylamino-pyrrolidine-1-carbonyl]-piperidin-1-yl}-(1-methyl-cyclopropyl)-methanone | ClC=1C=C(C=CC1Cl)C1CN(CC1NC)C(=O)C1CCN(CC1)C(=O)C1(CC1)C | C22H29Cl2N3O2
reactant | 4-fluorophenylacetic acid | FC1=CC=C(C=C1)CC(=O)O | C8H7FO2
product | N-{(3RS,4SR)-4-(3,4-dichloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-2-(4-fluoro-phenyl)-N-methyl-acetamide | ClC=1C=C(C=CC1Cl)C1C(CN(C1)C(=O)C1CCN(CC1)C(=O)C1(CC1)C)N(C(CC1=CC=C(C=C1)F)=O)C | C30H34Cl2FN3O3
